US06555700B1
A solution of z,z,z-octadeca-6,9,12-trienoic acid (150 g) in methylene chloride (500 ml) was added dropwise to a mixture of 1,3-dihydroxypropane (205 g), 1,3-dicyclohexylcarbodiimide (130 g) and 4-(N,N-dimethylamino)pyridine (87 g) in methylene chloride (2500 ml) at room temperature under nitrogen. When tlc indicated that the reaction had gone to completion the reaction mixture was filtered. The filtrate was washed with dilute hydrochloric acid, water and saturated sodium chloride solution. The solution was dried, concentrated and purified by dry column chromatography to yield 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane as a pale yellow oil.

reactant | z,z,z-octadeca-6,9,12-trienoic acid | 150 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)O | C18H30O2
reactant | 1,3-dihydroxypropane | 205 g | OCCCO | C3H8O2
reactant | 1,3-dicyclohexylcarbodiimide | 130 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 87 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 2500 ml | C(Cl)Cl | CH2Cl2
product | 1-(z,z,z-octadeca-6,9,12-trienoyloxy)-3-hydroxypropane | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)(=O)OCCCO | C21H36O3
